US05962479
4-(Butyl-ethyl-amino)-2-methyl-7-(2,4,6-trimethylphenyl)-7H-pyrrolo[2,3-d]pyrimidine-5,6-dione
To a solution of 4-(butyl-ethyl-amino)-2-methyl-7-(2,4,6-trimethyphenyl)-5,7-dihydro-pyrrolo[2,3-d]pyrimidin-6-one (76 mg, 0.207 mmol), POCl3 (0.039 ml, 0.415 mmol), triethylamine (0.059 ml), and dimethylamine (1 ml) in 2 ml acetonitrile was heated at reflux for 1 hour. The mixture was quenched with water and extracted with ethyl acetate. The organic layer was dried and concentrated to give a brown form (105 mg). After silica gel column chromatography, the title compound was isolated as a yellow glass (10 mg). 1H NMR (CDCl3) δ7.00 (s, 2H), 3.954-15 (m, 2H), 3.65-3.85 (m, 2H), 2.38 (s, 3H), 2.32 (s, 3H), 2.10 (s, 6H), 1.55-1.75 (m, 2H), 1.35-1.55 (m, 2H), 1.25 (t, 3H), 1.00 (t, 3H) ppm.

reactant | 4-(butyl-ethyl-amino)-2-methyl-7-(2,4,6-trimethyphenyl)-5,7-dihydro-pyrrolo[2,3-d]pyrimidin-6-one | 0.207 mmol, 76 mg | C(CCC)N(C=1C2=C(N=C(N1)C)N(C(C2)=O)C2=C(C=C(C=C2C)C)C)CC | C22H30N4O
reactant | POCl3 | 0.415 mmol, 0.039 ml | O=P(Cl)(Cl)Cl | Cl3OP
reactant | triethylamine | 0.059 ml | C(C)N(CC)CC | C6H15N
reactant | dimethylamine | 1 ml | CNC | C2H7N
solvent | acetonitrile | 2 ml | C(C)#N | C2H3N
product | 4-(Butyl-ethyl-amino)-2-methyl-7-(2,4,6-trimethylphenyl)-7H-pyrrolo[2,3-d]pyrimidine-5,6-dione | C(CCC)N(C=1C2=C(N=C(N1)C)N(C(C2=O)=O)C2=C(C=C(C=C2C)C)C)CC | C22H28N4O2
